US05071750
In accomplishing these and other objects, there is provided a process for preparing N-acetylneuraminic acid, comprising the steps of (a) isomerizing N-acetylglucosamine in a reactor, in the presence of N-acylglucosamine-2-epimerase (E.C. 5.1.3.8), to give N-acetylmannosamine, and (b) reacting the N-acetylmannosamine with pyruvic acid in the presence of N-acetylneuraminic acid pyruvate lyase (E.C. 4.1.3.3) in the same reactor to give N-acetylneuraminic acid, wherein both the epimerase and the lyase are present in a reactor simultaneously, and steps (a) and (b) occur simultaneously.

reactant | N-acetylmannosamine | C(C)(=O)N[C@@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO | C8H15NO6
reactant | pyruvic acid | C(C(=O)C)(=O)O | C3H4O3
reactant | N-acetylneuraminic acid pyruvate | C(C(=O)C)(=O)O.C(C)(=O)N[C@@H]1[C@H](CC(C(O)=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O
product | N-acetylneuraminic acid | C(C)(=O)N[C@@H]1[C@H](CC(C(O)=O)(O)O[C@H]1[C@H](O)[C@H](O)CO)O | C11H19NO9
